US08633186B2
2-(8-hydroxyoctyloxy)-6-nitrobenzonitrile
To a solution of 1,8-octanediol (3.87 mmol, 566 mg) in THF (dry, 10 mL) was added 2,6-dinitrobenzonitrile (1.29 mmol, 250 mg) and DBU (1.30 mmol, 194 μL). The reaction mixture was stirred for 24 hours at room temperature an evaporated. The oily residue was triturated with 10% citric acid/water and solid NaCl added. The precipitate was collected, washed with water, dried in vacuo and purified on silica gel (40% to 100% EtOAc in hexanes) to give the desired product (235 mg, 62.3%) as a pinkish solid. MS 293 (MH+).

reactant | 1,8-octanediol | 3.87 mmol, 566 mg | C(CCCCCCCO)O | C8H18O2
reactant | 2,6-dinitrobenzonitrile | 1.29 mmol, 250 mg | [N+](=O)([O-])C1=C(C#N)C(=CC=C1)[N+](=O)[O-] | C7H3N3O4
reactant | DBU | 1.30 mmol, 194 μL | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 2-(8-hydroxyoctyloxy)-6-nitrobenzonitrile | 235 mg, 62.3% | OCCCCCCCCOC1=C(C#N)C(=CC=C1)[N+](=O)[O-] | C15H20N2O4
